US07091214B2
9-Bromo-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline (0.34 mmol) and benzene boronic acid (62 mg, 0.51 mmol) were coupled according to Part J of Example 1. The work-up procedure described in Parts 125–135 was followed. The crude product was purified by HPFC (eluting with chloroform:CMA in a gradient from 100:0 to 85:15) to provide 1-(2-methylpropyl)-9-phenyl-1H-imidazo[4,5-c]quinoline.

reactant | 9-Bromo-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline | 0.34 mmol | BrC=1C=2C3=C(C=NC2C=CC1)N=CN3CC(C)C | C14H14BrN3
reactant | benzene boronic acid | 0.51 mmol, 62 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 1-(2-methylpropyl)-9-phenyl-1H-imidazo[4,5-c]quinoline | CC(CN1C=NC=2C=NC=3C=CC=C(C3C21)C2=CC=CC=C2)C | C20H19N3
